data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_323604_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])=[C:6]([C:4]([H:18])([H:19])[H:20])[C:8]([C:5]([H:21])([H:22])[H:23])([C:7](=[O:9])[H:10])[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[C:8](\[C:5]([H:21])([H:22])[H:23])[H:11])[C:7](=[O:9])[H:10],51.10610999998514
MR_57227_0,[N:1]([C:2]([N:4]([H:9])[H:10])=[O:5])([N:3]([H:7])[H:8])[H:6]>>[N:1]([C:2](=[O:5])[H:6])([N:3]([H:7])[H:8])[N:4]([H:9])[H:10],66.28219750001364
MR_333777_0,[C:1]([N:3]([C:2]([H:9])([H:13])[H:14])[C:4]([O:5][O:6][H:8])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([N:3]([C:2]([H:9])([H:13])[H:14])[O:5][C:4]([O:6][H:8])=[O:7])([H:10])([H:11])[H:12],65.48715499998778
MR_623708_0,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:5][H:8])([N:4]([H:11])[H:12])([O:6][H:9])[H:10]>>[C:1]1([N:4]([H:11])[H:12])([H:10])[C:3]([C:2]([H:13])([H:14])[H:15])([O:6][H:9])[N:7]1[O:5][H:8],57.61328499999962
MR_4743_0,[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:7])(/[C:5](=[C:4](/[O:6][H:8])[H:9])[H:12])([H:10])[H:11]>>[C:1](=[C:5]([C@:4]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:7])([O:6][H:8])[H:9])[H:12])([H:10])[H:11],65.97785999999729
MR_540747_1,[C:1]([N:5]([H:9])[H:10])([C:6]1([H:13])[C:4](=[O:8])[C:7]1([C:2]([C:3]([H:17])([H:18])[H:19])([H:14])[H:15])[H:16])([H:11])[H:12]>>[C:1]([N:5]([H:9])[H:10])(/[C:6](=[C:7](/[C:4]([C:2]([C:3]([H:17])([H:18])[H:19])([H:14])[H:15])=[O:8])[H:16])[H:13])([H:11])[H:12],64.47750750000438
MR_566253_1,[C:1]1([H:13])([H:14])[N:3]([H:11])[N:4]([H:12])[C:2]([H:15])([H:16])[C:5]([O:7][H:9])=[C:6]1[O:8][H:10]>>[C:1](=[N:3]/[H:11])(\[C:6](=[C:5](/[C:2]([N:4]([H:12])[H:13])([H:15])[H:16])[O:7][H:9])[O:8][H:10])[H:14],66.98436999995295
MR_645729_2,[C:1]([C:2]([O:6][H:10])=[O:9])(/[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])=[N:8]/[H:13])([O:7][H:11])[H:12]>>[C:1](=[C:3](\[C:4](=[C:5]([H:15])[H:16])[H:14])[N:8]([C:2]([O:6][H:10])=[O:9])[H:13])(\[O:7][H:11])[H:12],51.534692500008816
MR_133618_2,[C:1]([C:3]([H:15])([H:16])[H:17])([C:5]1([C:2]([C:4]([H:18])([H:19])[H:20])([H:11])[H:12])[C:6](=[C:7]([H:13])[H:14])[O:8]1)([H:9])[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:6]([C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([H:11])[H:12])=[O:8])=[C:7]([H:13])[H:14])([H:9])[H:10],68.81290500000901
MR_458244_1,[C:1]1([C:2]([H:7])([H:8])[H:9])([H:6])[C:3](=[O:5])[O:4]1>>[C:1]([C:3]([C:2]([H:7])([H:8])[H:9])=[O:5])(=[O:4])[H:6],45.50567249999986
MR_483138_2,[C:1]([C:2]([N:5]([H:12])[H:13])([O:6][C:3]([H:14])([H:15])[H:16])[H:11])([C:4]([H:17])([H:18])[H:19])([O:7][H:9])[O:8][H:10]>>[C:1]([C:2]([N:5]([H:12])[H:13])([O:8][H:10])[H:11])([C:4]([H:17])([H:18])[H:19])([O:6][C:3]([H:14])([H:15])[H:16])[O:7][H:9],69.30109999998919
MR_440778_1,[C:1]([N:2]([C:3](=[O:6])[H:11])[H:9])([O:4][H:7])([O:5][H:8])[H:10]>>[C:1]([N:2]([C:3]([O:5][H:8])([O:6][H:7])[H:11])[H:9])(=[O:4])[H:10],50.81746000003619
MR_515737_1,[C:1](/[N:2]=[C:4](/[N:7]([N:3]([H:8])[H:9])[C:5](=[C:6]([H:15])[H:16])[H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:2](/[C:4](=[N:7]\[N:3]([H:8])[H:9])[H:10])[C:5](=[C:6]([H:15])[H:16])[H:11])([H:12])([H:13])[H:14],71.21873999999863
MR_513833_1,[C:1]([N:3]([N:4]([C:5]([N:7]([H:11])[H:12])=[O:8])[H:10])[C:6]([C:2]([H:16])([H:17])[H:18])=[O:9])([H:13])([H:14])[H:15]>>[C:1]([N:3]1[N:4]([H:10])[C:5]1([N:7]([H:11])[H:12])[O:8][C:6]([C:2]([H:16])([H:17])[H:18])=[O:9])([H:13])([H:14])[H:15],70.20721000001998
MR_102190_0,[C:1]1([O:5][H:7])([H:8])[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:9])[O:6]1>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([O:6][H:7])[H:9])(=[O:5])[H:8],37.20070999995869
MR_397325_1,[C:1]([O:5][O:4]/[N:7]=[C:3](\[C:2]([H:12])([H:13])[H:14])[O:6][H:8])([H:9])([H:10])[H:11]>>[C:1]([O:5][C:3]([C:2]([H:12])([H:13])[H:14])([O:6][H:8])[N:7]=[O:4])([H:9])([H:10])[H:11],24.32252750001396
MR_546868_1,[C:1](=[N:4]/[H:11])(\[C:5]([N:3]([C:2]([H:14])([H:15])[H:16])[O:6][H:8])([N:7]([H:10])[H:12])[H:13])[H:9]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[O:6][H:8])([N:4]([H:10])[H:11])(/[C:5](=[N:7]/[H:12])[H:13])[H:9],49.60512999999381
MR_625488_0,[C:1]([N:3](/[C:4]([O:8][H:10])=[N:9]/[N:6]([H:11])[H:12])[C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:13])([H:14])[H:15]>>[C:1]([N:3]1[C@:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([O:8][H:10])[N:9]1[N:6]([H:11])[H:12])([H:13])([H:14])[H:15],71.79604000000353
MR_70099_2,[C:1]1([H:11])([H:12])[N:3]([H:8])[N:2]([H:7])[C:4]([N:5]([H:9])[H:10])=[C:6]1[H:13]>>[C:1]1([H:11])([H:12])[N:3]([H:8])[C@@:6]1(/[C:4](=[N:2]\[H:7])[N:5]([H:9])[H:10])[H:13],56.646307500015496
MR_189577_0,[C:1]([C:3]1([C:6]([N:4]([H:9])[H:10])([H:15])[H:16])[C:2](=[O:8])[O:7]1)([N:5]([H:11])[H:12])([H:13])[H:14]>>[C:1]([C:3](=[C:6]([H:15])[H:16])[O:7][C:2]([N:4]([H:9])[H:10])=[O:8])([N:5]([H:11])[H:12])([H:13])[H:14],52.95409749999209
